US06372770B1
(d) 2-(2-Chlorobenzyl)-7-(3-hydroxy-1-propyl)Benzoxazole
A solution of 2-(2-chlorobenzyl)-5-chloro-7-allylbenzoxazole (5.0 g, 0.018 mole) in THF was added to a solution of di-iso-amylborane prepared from borane-THF complex (1.60g, 0.018 mol) and 2-methyl-2-butene (2.80 g, 0.04 mol) in THF. The reaction mixture was stirred overnight and cooled to −20° C. then treated with 3 N sodium hydroxide (6.5 ml) and 30% hydrogen peroxide (6.5 ml). The reaction mixture was allowed to warm to room temperature and stirred for 4 hours. The product was isolated by partitioning between dichloromethane and water. Flash chromatography over flash chromatographic silica gel with dichloromethane afforded nearly pure title compound which was recrystallized from ether-hexane to give 290 mg of pure title compound, mp 66-68° C.

reactant | 2-(2-chlorobenzyl)-5-chloro-7-allylbenzoxazole | 0.018 mole, 5.0 g | ClC1=C(CC=2OC3=C(N2)C=C(C=C3CC=C)Cl)C=CC=C1 | C17H13Cl2NO
reactant | di-iso-amylborane | C(CC(C)C)BCCC(C)C | C10H23B
reactant | 2-methyl-2-butene | 0.04 mol, 2.80 g | CC(C)=CC | C5H10
reactant | sodium hydroxide | 3 N, 6.5 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 6.5 ml | OO | H2O2
solvent | THF | C1CCOC1 | C4H8O
product | 2-(2-Chlorobenzyl)-7-(3-hydroxy-1-propyl)Benzoxazole | ClC1=C(CC=2OC3=C(N2)C=CC=C3CCCO)C=CC=C1 | C17H16ClNO2
